US09034866B2
Into a 1000-mL round-bottom flask was placed 5-bromo-N-(2,2-dimethoxyethyl)-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraen-8-amine (33.4 g, 98.46 mmol, 1.00 equiv), tetrahydrofuran (340 mL), and hydrogen chloride (340 mL, 10%). The resulting solution was heated to reflux for 2 h, concentrated under vacuum and extracted with 2×150 mL of ethyl acetate. The pH value of the combined aqueous layers was adjusted to 8-9 with sodium hydroxide (2 mol/L). The resulting solution was extracted with 3×300 mL of dichloromethane. The organic layers were combined, washed with 2×150 mL of water and 1×150 mL of brine, dried over anhydrous sodium sulfated and concentrated under vacuum. The crude product was decolorized by the addition of active carbon, stirring for 30 min. The solids were filtered out and the filtrate was concentrated under vacuum to afford 15 g (55%) of 9-bromo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene as a white solid.

reactant | 5-bromo-N-(2,2-dimethoxyethyl)-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraen-8-amine | 98.46 mmol, 33.4 g, 1.00 equiv | BrC1=CC=C2C3CC(N=C(C2=C1)NCC(OC)OC)C3 | C15H19BrN2O2
reactant | hydrogen chloride | 340 mL | Cl | ClH
solvent | tetrahydrofuran | 340 mL | O1CCCC1 | C4H8O
product | 9-bromo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene | 15 g, 55% | BrC=1C=C2C3=NC=CN3C3CC(C2=CC1)C3 | C13H11BrN2
